US05914351
To a stirred solution of water (400 mL) and conc. hydrochloric acid (40 mL) is added chloroacetaldehyde-dimethylacetal (300 g) and brought to reflux. The homogenous solution was then added to a stirred cooled solution of ethyl acetoacetate (260 g. 2 mol) in pyridine (500 mL). This reaction mixture was allowed to stir overnight at ambient temperature. The lower layer of the reaction mixture was then removed and combined with the methylene chloride (2×100 mL) extract of the upper layer after dilution with an equal volume of water. The combined organics were washed with 1N HCl (200 mL), and evaporation of the solvent left the crude ester. Hydrolysis of this ester was accomplished by refluxing for 1 hour in ethanol (100 mL) and sodium hydroxide (50 g) in water (700 mL). The reaction mixture was then poured into water/ice (3 L) and acidified with hydrochloric acid to give a cream precipitate which was collected on a filter, washed with water and dried, to produce 180 g of 2-methyl-3-furoic acid, m.p. 105-106° C.

reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | chloroacetaldehyde-dimethylacetal | 300 g | COC(CCl)OC | C4H9ClO2
reactant | ethyl acetoacetate | 2 mol, 260 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 700 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | 2-methyl-3-furoic acid | 180 g | CC=1OC=CC1C(=O)O | C6H6O3
